US07795262B2
Step 3. Preparation of 1-(4-cyclobutyl-piperazin-1-yl)-2-(6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl)-ethanone
To a stirred solution of 6-methoxy-1,2,3,4-tetrahydroisoquinoline (163 mg, 1.0 mmol) in acetonitrile (5.0 ml) is added 2-chloro-(4-cyclobutyl-piperazine)-acetamide (216 mg, 1.0 mmol, 1.0 eq.), K2CO3 (376 mg, 2.0 mmol, 2.0 eq.), and NaI (30 mg). The resulting mixture is stirred at rt overnight. Water (10.0 ml) is added to quench the reaction, and then the acetonitrile is evaporated. The residue is extracted with DCM (10 ml×3). The extracts are dried over sodium sulfate, and the solvent is removed under reduced pressure to yield a residue that is purified through PTLC (EtOAc/4% TEA) to give the title compound. 1H NMR (300 MHz, CDCl3) δ 6.92 (1H, d), 6.70 (1H, dd), 6.63 (1H, d), 3.77 (3H, s), 3.58˜3.68 (6H, m), 3.33 (2H, s), 2.86 (2H, t), 2.74 (2H, t), 2.65 (1H, m), 2.27 (4H, m), 1.62˜2.06 (6H, m); MS (+VE) m/z 344.2 (M++1).

reactant | 6-methoxy-1,2,3,4-tetrahydroisoquinoline | 1.0 mmol, 163 mg | COC=1C=C2CCNCC2=CC1 | C10H13NO
reactant | 2-chloro-(4-cyclobutyl-piperazine) acetamide | 1.0 mmol, 216 mg, 1.0 eq. | ClC1NCCN(C1)C1CCC1.C(C)(=O)N
reactant | K2CO3 | 2.0 mmol, 376 mg, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 30 mg | [Na+].[I-]
solvent | acetonitrile | 5.0 ml | C(C)#N | C2H3N
solvent | Water | 10.0 ml | O | H2O
product | 1-(4-cyclobutyl-piperazin-1-yl)-2-(6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl)-ethanone | C1(CCC1)N1CCN(CC1)C(CN1CC2=CC=C(C=C2CC1)OC)=O | C20H29N3O2
